### PR TITLE
Module structure refactorings

### PR DESCRIPTION
**Pull request by ibbem**
This fixes some inconsistencies in the code, splits the language properties into separate files (similar to how the Agda standard library does it) and tries to make it easier to use.

### CODE REVIEW

File: src/Vatras/Lang/All.agda [hunk 1]
```diff
@@ -12,22 +12,57 @@ import Vatras.Lang.2CC
...
+    open Vatras.Lang.NADT (λ _ → ⊥) using (Configuration) public
+  module _ {V : 𝕍} {F : 𝔽} where
+    open Vatras.Lang.NADT V F hiding (NADT; NADTL; Configuration) public
 
-  ⟦_⟧ : ∀ {F : 𝔽} {A : 𝔸} → Impose.SPL F A → Configuration F → Rose ∞ A
-  ⟦_⟧ {F} = Vatras.Lang.FST.⟦_⟧ F
+module ADT where
+  open Vatras.Lang.ADT using (ADT; ADTL) public
+  module _ where
+    open Vatras.Lang.ADT (λ _ → ⊥) using (Configuration) public
```
Comment (pmbittner) [inline src/Vatras/Lang/All.agda]: Can you document this black magic?

File: src/Vatras/Lang/All.agda [hunk 2]
```diff
@@ -12,22 +12,57 @@ import Vatras.Lang.2CC
...
 
-module FST where
-  open import Size using (∞)
-  open import Vatras.Framework.Definitions using (𝔽; 𝔸)
-  open import Vatras.Framework.Variants using (Rose)
-  open import Vatras.Lang.FST hiding (⟦_⟧) public
+module CCC where
+  open Vatras.Lang.CCC using (CCC; CCCL; Configuration) public
+  module _ {F : 𝔽} where
+    open Vatras.Lang.CCC F hiding (CCC; CCCL; Configuration) public
```
Comment (pmbittner) [inline src/Vatras/Lang/All.agda:34]: I would be great if you could document (once at the top of this file?) why there are so many modules. I guess you are just turning explicit into implicit parameters for easier usage? How does this help exactly?

Comment (pmbittner) [reply src/Vatras/Lang/All.agda:34]: EDIT: I see now that you change explicit to implicit parameters just for some of the definitions: Not for languages and configurations but for everything else (including semantics).

File: src/Vatras/Translation/Lang/2CC-to-ADT.agda [hunk 3]
```diff
@@ -24,8 +24,10 @@ open import Relation.Binary.PropositionalEquality as Eq using (_≡_; refl; _≗
 open Eq.≡-Reasoning using (step-≡-⟨; step-≡-⟩; step-≡-∣; _∎)
 open IndexedSet using (_≅[_][_]_; ≅[]-sym; ≗→≅[])
 
-open import Vatras.Lang.2CC as 2CC using (2CC; 2CCL)
-open import Vatras.Lang.ADT as ADT using (ADT; ADTL; leaf; _⟨_,_⟩)
+open import Vatras.Lang.All
+open 2CC using () renaming (2CC to 2CCSyntax) -- Necessary for disambiguation
+open 2CC using (2CC; 2CCL)
```
Comment (pmbittner) [inline src/Vatras/Translation/Lang/2CC-to-ADT.agda]: Why is `2CC` renamed to `2CCSyntax` but then imported again as `2CC`? Is this a bug?

Comment (pmbittner) [reply src/Vatras/Translation/Lang/2CC-to-ADT.agda]: This import still does not look very intuitive. :thinking:

File: src/Vatras/Translation/Lang/ADT-to-2CC.agda [hunk 4]
```diff
@@ -23,12 +23,14 @@ open import Relation.Binary.PropositionalEquality as Eq using (_≡_; refl; _≗
 open Eq.≡-Reasoning using (step-≡-⟩; step-≡-∣; _∎)
 open IndexedSet using (_≅[_][_]_; ≅[]-sym; ≗→≅[])
 
-open import Vatras.Lang.2CC as 2CC using (2CC; 2CCL)
-open import Vatras.Lang.ADT as ADT using (ADT; ADTL; leaf; _⟨_,_⟩)
+open import Vatras.Lang.All
+open 2CC using () renaming (2CC to 2CCSyntax) -- Necessary for disambiguation
+open 2CC using (2CC; 2CCL)
```
Comment (pmbittner) [inline src/Vatras/Translation/Lang/ADT-to-2CC.agda]: s.a.

File: src/Vatras/Translation/Lang/VariantList-to-CCC.lagda.md [hunk 5]
```diff
@@ -30,11 +30,11 @@ open Eq.≡-Reasoning
...
-open import Vatras.Lang.All
-open VariantList (Rose ∞)
-  using (VariantList; VariantListL; VariantList-is-Complete)
-  renaming (⟦_⟧ to ⟦_⟧ₗ; Configuration to Cₗ)
-open CCC renaming (Configuration to Cᶜ)
+open import Vatras.Lang.VariantList (Rose ∞) as VariantList using (VariantList; VariantListL; VariantList-is-Complete)
+import Vatras.Lang.CCC
+module CCC = Vatras.Lang.CCC Dimension
+open CCC using () renaming (CCC to CCCSyntax)
+open CCC using (CCC; CCCL)
```
Comment (pmbittner) [inline src/Vatras/Translation/Lang/VariantList-to-CCC.lagda.md]: This looks still quite complex. Four lines to implement a module.

File: src/Vatras/Translation/Lang/VariantList-to-CCC.lagda.md [hunk 6]
```diff
@@ -43,17 +43,17 @@ open import Vatras.Util.List using (find-or-last; map-find-or-last; map⁺-id)
...
   where
   open LanguageCompiler embed using (compile; preserves) renaming (conf to v-conf)
 
-  translate : ∀ {A} → VariantList A → CCC Dimension ∞ A
-  translate vs =  𝔻 ⟨ map⁺ compile vs ⟩
+  translate : ∀ {A} → VariantList A → CCC ∞ A
+  translate vs =  𝔻 CCCSyntax.⟨ map⁺ compile vs ⟩
 
-  conf : Cₗ → Cᶜ Dimension
+  conf : VariantList.Configuration → CCC.Configuration
```
Comment (pmbittner) [inline src/Vatras/Translation/Lang/VariantList-to-CCC.lagda.md:51]: much better indeed

File: src/Vatras/Lang/All/Fixed.agda [hunk 7]
```diff
@@ -0,0 +1,23 @@
...
+
+module VariantList = Vatras.Lang.VariantList V
+module CCC = Vatras.Lang.CCC F
+module NCC = Vatras.Lang.NCC F
+module 2CC = Vatras.Lang.2CC F
+module NADT = Vatras.Lang.NADT F V
+module ADT = Vatras.Lang.ADT F V
+module OC = Vatras.Lang.OC F
+module FST = Vatras.Lang.FST F
+module Gruler = Vatras.Lang.Gruler F
```
Comment (pmbittner) [inline src/Vatras/Lang/All/Fixed.agda:28]: Nice!

File: src/Vatras/Test/Test/VariantList-Completeness.agda [hunk 8]
```diff
@@ -14,8 +15,8 @@ open import Vatras.Test.UnitTest
 
 open import Vatras.Framework.Variants using (Rose)
 Variant = Rose ∞
-import Vatras.Lang.VariantList
-open Vatras.Lang.VariantList Variant using (Configuration; ⟦_⟧; encode; vl-conf; vl-fnoc)
+open import Vatras.Lang.All.Fixed ⊥ Variant
```
Comment (pmbittner) [inline src/Vatras/Test/Test/VariantList-Completeness.agda:18]: Nice trick. Maybe document shortly that for Clone-and-Own, no feature annotations exist, hence there is no feature annotation language. To prevent the use of any feature information, we use \bot here.

File: src/Vatras/Translation/Lang/VariantList-to-CCC.lagda.md (hunk 5 above)
Comment (pmbittner) [reply src/Vatras/Translation/Lang/VariantList-to-CCC.lagda.md]: Edit: Fixed in a newer commit. :D Now it is just two lines.

File: src/Vatras/Translation/Lang/2CC-to-ADT.agda [hunk 9]
```diff
@@ -25,8 +25,7 @@ open Eq.≡-Reasoning using (step-≡-⟨; step-≡-⟩; step-≡-∣; _∎)
 open IndexedSet using (_≅[_][_]_; ≅[]-sym; ≗→≅[])
 
 open import Vatras.Lang.All
-open 2CC using () renaming (2CC to 2CCSyntax) -- Necessary for disambiguation
-open 2CC using (2CC; 2CCL)
+open 2CC using (2CC; 2CCL; _-<_>-; _⟨_,_⟩)
```
Comment (pmbittner) [inline src/Vatras/Translation/Lang/2CC-to-ADT.agda:28]: :raised_hands: Yes! Awesome! :)

Comment (pmbittner) [reply src/Vatras/Translation/Lang/2CC-to-ADT.agda:28]: This is really great. This aligns the notation in the code base more with the paper (and other papers as well). :+1:

**Review by pmbittner — COMMENTED** [review]
Thank you very much for these welcome changes! This looks a lot better now. I went through the commits chronologically one by one. So sometimes a comment got invalidated or addressed by a later change.

I don't have many requests, just a few questions and, as always, I would like to see a little bit of documentation here and there. :)

(Also: Nobody will think that I contributed anything to this code base after you acquired every line of git blame. :rofl: )

**Comment by pmbittner** [comment]
Do we have a version number? If so, we should probably increment?

**Comment by ibbem** [comment]
Yes, there is one version number in `default.nix`. As far as I can tell that's the only place.

**Comment by ibbem** [comment]
Does this adequately fix #76?

**Comment by pmbittner** [comment]
Not yet but it is a first necessary step towards fixing #76. To address #76 fully, it would also be good to have modules like `Vatras.Lang.All.Fixed` but again fixed to strings or natural (`Vatras.Lang.All.OnString`, `Vatras.Lang.All.OnNat`?). In these modules, `𝔽`, `𝕍`, and `𝔸` would be fixed to the respective values as exemplified in the description of #76. So these would be convenience modules to write examples fast and easy. And I guess `Nat` and `String` are the most requested atoms. I am open to other suggestions. The most annoying part in #76 was specifying the atom set.

I think we could do all this in another PR though.
